US07868188B2
N-[4-Methyl-5-(6-chloro-5-phenylsulfonylaminopyridazin-3-yl)-1,3-thiazol-2-yl]acetamide
Lithium hexamethyldisilazane (1M solution in THF; 0.81 mL) was added to a mixture of N-[5-(5-amino-6-chloropyridazin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (77 mg) and THF (1.3 mL) that had been cooled to 0° C. The reaction mixture was allowed to warm and was stirred at room temperature for 30 minutes. Benzenesulfonyl chloride (0.069 mL) was added and the reaction mixture was stirred at room temperature for 2 hours. Water (2 drops) was added to the reaction mixture. The mixture was evaporated and the residual solid was purified by preparative HPLC. The material so obtained was purified further by column chromatography on silica using a solvent gradient of 0% to 20% methanol in dichloromethane as eluent. There was thus obtained the title compound as a solid (2.5 mg); 1H NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.40 (s, 3H), 7.05 (s, 1H), 7.45 (m, 3H), 7.80 (m, 2H); Mass Spectrum: M+H+ 424.

reactant | Lithium hexamethyldisilazane | 1M, 0.81 mL | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | N-[5-(5-amino-6-chloropyridazin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 77 mg | NC=1C=C(N=NC1Cl)C1=C(N=C(S1)NC(C)=O)C | C10H10ClN5OS
reactant | Benzenesulfonyl chloride | 0.069 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | Water | 2 drops | O | H2O
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | N-[4-Methyl-5-(6-chloro-5-phenylsulfonylaminopyridazin-3-yl)-1,3-thiazol-2-yl]acetamide | 2.5 mg | CC=1N=C(SC1C=1N=NC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)Cl)NC(C)=O | C16H14ClN5O3S2
